US07608639B2
3-[4-(3-Benzyloxy-5-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester
A mixture of 3-benzyloxy-5-methyl-phenol (3.24 g, 15.1 mmol), 3-(4-fluoro-2-methyl-phenyl)-acrylic acid ethyl ester (3.15 g, 15.1 mmol) and 325 mesh potassium carbonate (2.51 g, 18.2 mmol) in dry DMSO (40 mL) is heated to 130° C. and stirred for 20 hours under N2. The reaction is cooled and acidified with 1 N HCl (30 mL). The mixture is then diluted with Et2O and extracted with water. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 9/1 hexanes/ethyl acetate to afford 3.56 g (58%) of the title compound. Rf=0.39 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C26H26O4 402, found 403 (M+1, 100%).

reactant | 3-benzyloxy-5-methyl-phenol | 15.1 mmol, 3.24 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)O | C14H14O2
reactant | 3-(4-fluoro-2-methyl-phenyl)-acrylic acid ethyl ester | 15.1 mmol, 3.15 g | C(C)OC(C=CC1=C(C=C(C=C1)F)C)=O | C12H13FO2
reactant | potassium carbonate | 18.2 mmol, 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 3-[4-(3-Benzyloxy-5-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester | 3.56 g, 58% | C(C)OC(C=CC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OCC1=CC=CC=C1)C)=O | C26H26O4
